US07585880B2
methyl 3-{4-[(4-{[(4-phenyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}benzyl)oxy]phenyl}propanoate
The title compound was synthesized in the same manner as in Example 8 from (4-{[(4-phenyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}phenyl)methanol and methyl 3-(4-hydroxyphenyl)propanoate by Mitsunobu reaction (yield 57%). Yellow oil.

reactant | (4-{[(4-phenyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}phenyl)methanol | C1(=CC=CC=C1)C=1N=C(SC1)N(CCC1=NC=CC=C1)CC1=CC=C(C=C1)CO | C24H23N3OS
reactant | methyl 3-(4-hydroxyphenyl)propanoate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
product | methyl 3-{4-[(4-{[(4-phenyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}benzyl)oxy]phenyl}propanoate | yield 57% | C1(=CC=CC=C1)C=1N=C(SC1)N(CCC1=NC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C34H33N3O3S
